US07727988B2
5-(2-pyrazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E68)
5-(2-pyrazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione (E67, 78 mg, 0.17 mmol) was dissolved in 2 ml of dioxane and then 4N HCl in dioxane solution (85 μl, 0.34 mmol) was added. The mixture was stirred at room temperature for 5 minutes, and then the solvent was removed in vacuum. The residue was triturated with petroleum ether to give 81.2 mg of the title compound as a yellow solid (90%, yield).

reactant | 5-(2-pyrazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | 0.17 mmol, 78 mg | N1=C(C=NC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C23H22F3N5O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.34 mmol, 85 μl | O1CCOCC1 | C4H8O2
product | 5-(2-pyrazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 81.2 mg, 90% | Cl.Cl.N1=C(C=NC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C23H22F3N5O2.2ClH/c24-23(25,26)16-4-2-15(3-5-16)22-10-17(22)12-30(14-22)8-1-9-31-13-18(20(32)29-21(31)33)19-11-27-6-7-28-19;;/h2-7,11,13,17H,1,8-10,12,14H2,(H,29,32,33);2*1H/t17-,22+;;/m0../s1
